US05891902
Ethyl 3-[4-(2-chloroethoxy)benzhydryl]-1-(2-dimethylaminoethyl)indole-2-carboxylate
Substantially the same procedure as in Reference Example 5 was repeated using 4-(2-chloroethoxy)benzhydrol (17.66 g, 67.2 mmol) and ethyl 1-(2-dimethylaminoethyl)indole-2-carboxylate (19.2 g, 73.9 mmol) to give 27.6 g (yield: 81%) of the title compound.

reactant | 4-(2-chloroethoxy)benzhydrol | 67.2 mmol, 17.66 g | ClCCOC1=CC=C(C(C2=CC=CC=C2)O)C=C1 | C15H15ClO2
reactant | ethyl 1-(2-dimethylaminoethyl)indole-2-carboxylate | 73.9 mmol, 19.2 g | CN(CCN1C(=CC2=CC=CC=C12)C(=O)OCC)C | C15H20N2O2
product | Ethyl 3-[4-(2-chloroethoxy)benzhydryl]-1-(2-dimethylaminoethyl)indole-2-carboxylate | 27.6 g, yield: 81% | ClCCOC1=CC=C(C(C2=CC=CC=C2)C2=C(N(C3=CC=CC=C23)CCN(C)C)C(=O)OCC)C=C1 | C30H33ClN2O3
